US06017919
4-Methoxytoluene (100 ml, 0.793 mol) and methylene chloride (300 ml) were mixed, and this solution was cooled to 0° C. To this solution was added aluminum chloride (190.3 g, 1.44 mol), and then heptanoyl chloride (123 ml, 0.8 mol) was added dropwise to this solution over 2 hours. The reaction mixture was heated to room temperature, and stirred for 2 hours. The reaction mixture was poured onto ice (400 g) to stop the reaction. The aqueous layer was extracted with chloroform (300 ml). The organic layers were combined, washed successively with water, a saturated aqueous sodium hydrogencarbonate solution and saturated brine (100 ml each), and dried over anhydrous magnesium sulfate. The drying agent was filtered off, the filtrate was concentrated under reduced pressure, and the obtained residue was purified by distillation (120 pa, 125-140° C.) to give 1-(2-hydroxy-5-methylphenyl)heptan-1-one (127.8 g, 77%/) as a colorless oil.

reactant | 4-Methoxytoluene | 0.793 mol, 100 ml | COC1=CC=C(C=C1)C | C8H10O
reactant | aluminum chloride | 1.44 mol, 190.3 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | heptanoyl chloride | 0.8 mol, 123 ml | C(CCCCCC)(=O)Cl | C7H13ClO
solvent | methylene chloride | 300 ml | C(Cl)Cl | CH2Cl2
product | 1-(2-hydroxy-5-methylphenyl)heptan-1-one | 127.8 g, 77% | OC1=C(C=C(C=C1)C)C(CCCCCC)=O | C14H20O2
